US09388161B2
A 100-mL round bottomed flask was charged with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.942 g, 4.85 mmol), N,N-dimethylformamide (20 mL) and cesium carbonate (3.16 g, 9.71 mmol). 3-Bromothietane 1,1-dioxide (0.925 g, 5.00 mmol) was added, and the reaction stirred at 60° C. overnight. The reaction mixture was cooled to room temperature and then partitioned between ethyl acetate and water. The aqueous phase was separated and extracted with ethyl acetate. The combined organic phases were washed with water and brine and concentrated to afford an oil. This material was purified via column chromatography on silica gel (eluting with 1:5 ethyl acetate-hexanes) to afford 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)thietane 1,1-dioxide (0.172 g, 12% yield) as a white solid. MS (ESI, pos. ion) m/z 299 [M+H]+.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 4.85 mmol, 0.942 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | cesium carbonate | 9.71 mmol, 3.16 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-Bromothietane 1,1-dioxide | 5.00 mmol, 0.925 g | BrC1CS(C1)(=O)=O | C3H5BrO2S
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)thietane 1,1-dioxide | 0.172 g, 12% yield | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CS(C1)(=O)=O)C | C12H19BN2O4S
